US08686007B2
5-{[2-(4-Fluorophenyl)-2-methylpropyl]amino}-1,2,4-thiadiazole-3-carboxamide.
To a 0° C. mixture of 5-(2-(4-fluorophenyl)-2-methylpropylamino)-1,2,4-thiadiazole-3-carbonitrile (100 mg, 3.65 mmol, 1.0 equiv) and K2CO3 (202 mg, 14.6 mmol, 4.0 equiv) in DMSO (1.0 mL) was added hydrogen peroxide (30% in water, 1.1 mL, 36 mmol, 10 equiv) by syringe. After stirring for 15 min, the ice bath was removed, and the reaction mixture was stirred overnight. The reaction mixture was diluted with EtOAc and washed repeatedly with water and once with brine. The organic layer was dried over sodium sulfate, filtered and concentrated in vacuo. Preparatory thin layer chromatography (5% MeOH/DCM) provided the title compound (17 mg, 16%). m/z=295 [M+H]+.

reactant | 5-(2-(4-fluorophenyl)-2-methylpropylamino)-1,2,4-thiadiazole-3-carbonitrile | 3.65 mmol, 100 mg, 1.0 equiv | FC1=CC=C(C=C1)C(CNC1=NC(=NS1)C#N)(C)C | C13H13FN4S
reactant | K2CO3 | 14.6 mmol, 202 mg, 4.0 equiv | C(=O)([O-])[O-].[K+].[K+]
reactant | hydrogen peroxide | 36 mmol, 1.1 mL, 10 equiv | OO | H2O2
solvent | DMSO | 1.0 mL | CS(=O)C | C2H6OS
product | 5-{[2-(4-Fluorophenyl)-2-methylpropyl]amino}-1,2,4-thiadiazole-3-carboxamide | 17 mg, 16% | FC1=CC=C(C=C1)C(CNC1=NC(=NS1)C(=O)N)(C)C | C13H15FN4OS
